US09108939B2
C: tert-Butyl 4-(4-(3-(cyclopropylmethyl)ureido)-N-methylbenzamido)piperidine-1-carboxylate
Propanephosphonic acid cyclic anhydride (3.74 mL, 6.40 mmol) was added to a solution of 4-(3-(cyclopropylmethyl)ureido)benzoic acid (500 mg, 2.134 mmol), tert-butyl 4-(methylamino)piperidine-1-carboxylate (457 mg, 2.134 mmol) and triethylamine (1.19 mL, 8.54 mmol) in dichloromethane (20 mL). The mixture was stirred at ambient temp for 3.5 hours and then concentrated under reduced pressure. The crude material was purified by silica chromatography (eluting with a solvent gradient from 2.5% methanol/97.5% dichloromethane to 5% methanol/95% dichloromethane) to afford the title compound (440 mg). MS (ESI) m/z 431.5 [M+H]+

reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 2.134 mmol, 500 mg | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | tert-butyl 4-(methylamino)piperidine-1-carboxylate | 2.134 mmol, 457 mg | CNC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | triethylamine | 8.54 mmol, 1.19 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-(4-(3-(cyclopropylmethyl)ureido)-N-methylbenzamido)piperidine-1-carboxylate | 440 mg | C1(CC1)CNC(NC1=CC=C(C(=O)N(C)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C23H34N4O4
